US06262069B1
3-([R]-1-phenyl-1-aminomethyl)-5-benzyl-2H-1,2,4-triazole
EDC (1.6 g) was dissolved in DMF (20 ml.) and treated with HOAt (1.16 g) in DMF (10 ml.) and stirred for 10 mins. DIPEA (1.46 ml.) was then added and the stirring continued for a further 15 mins. Boc-D-phenylglycine (2 g) in DMF (10 ml.) was then added dropwise and stirring continued for a further 25 mins. 1M Hydrazine in THF (84 ml.) was then added and the mixture stirred over night. The solvents were then evaporated and the residue treated with water (100 ml.), basified with 2M sodium hydroxide solution and extracted with ethylacetate. The combined extracts were washed with water and brine, dried with magnesium sulphate, filtered and evaporated to give a yellow solid (1.38 g).

reactant | HOAt | 1.16 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 1.46 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-D-phenylglycine | 2 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | Hydrazine | 1M | NN | H4N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF | 84 ml | C1CCOC1 | C4H8O
solvent | EDC | 1.6 g
product | 3-([R]-1-phenyl-1-aminomethyl)-5-benzyl-2H-1,2,4-triazole | 1.38 g | C1(=CC=CC=C1)[C@@H](N)C=1NN=C(N1)CC1=CC=CC=C1 | C16H16N4
